US08193236B2
(5-Dimethylaminomethyl-benzofuran-3-yl)-acetic acid methyl ester
To a solution of (5-bromomethyl-benzofuran-3-yl)-acetic acid methyl ester (198 mg, 0.70 mmol) in THF (4.0 mL) is added a 5.6 M solution of dimethylamine in ethanol (1.0 mL). The resulting reaction mixture is stirred for 2 h at room temperature, filtered through a microfilter (25 μm) and the filtrate concentrated at reduced pressure to afford the title compound as a yellow oil (170 mg, 0.69 mmol, 98%). 1H NMR (400 MHz, CDCl3, 298 K): δ=7.56 (s, 1H), 7.45 (s, 1H), 7.36 (d, J=8.6 Hz, 1H), 7.23 (d, J=8.6 Hz, 1H), 3.66 (s, 3H), 3.64 (s, 2H), 3.52 (s, 2H), 2.24 (s, 3H). MS (ES+): 248 (M(C14H17NO3)+H)+.

reactant | (5-bromomethyl-benzofuran-3-yl)-acetic acid methyl ester | 0.70 mmol, 198 mg | COC(CC1=COC2=C1C=C(C=C2)CBr)=O | C12H11BrO3
reactant | dimethylamine | CNC | C2H7N
solvent | THF | 4.0 mL | C1CCOC1 | C4H8O
solvent | ethanol | 1.0 mL | C(C)O | C2H6O
product | (5-Dimethylaminomethyl-benzofuran-3-yl)-acetic acid methyl ester | 0.69 mmol, 170 mg, 98% | COC(CC1=COC2=C1C=C(C=C2)CN(C)C)=O | C14H17NO3
